US08563565B2
(2) Synthesis of 5-bromo-4,6-dimethylpicolinaldehyde
Sodium methoxide (1.16 g) was added to a solution of 2-nitropropane (1.96 mL) in methanol (40 mL) at mom temperature, and the mixture was stirred at the same temperature for 20 minutes. 3-bromo-6-(bromomethyl)-2,4-dimethylpyridine (2.00 g) was added to the reaction mixture, and the mixture was stirred at 50° C. for five hours. The reaction mixture was concentrated under reduced pressure, and water was added to the residue, followed by extraction with ethyl acetate. The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 0% to 50%) to give the title compound (565 mg).

reactant | Sodium methoxide | 1.16 g | C[O-].[Na+]
reactant | 2-nitropropane | 1.96 mL | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | 3-bromo-6-(bromomethyl)-2,4-dimethylpyridine | 2.00 g | BrC=1C(=NC(=CC1C)CBr)C | C8H9Br2N
solvent | methanol | 40 mL | CO | CH4O
product | 5-bromo-4,6-dimethylpicolinaldehyde | 565 mg | BrC=1C(=CC(=NC1C)C=O)C | C8H8BrNO
